US07932272B2
1-Benzyl-1H-pyrrole-3-carbaldehyde
Benzylamine (540 mg, 5.00 mmol) and acetic acid (10 mL) were added to 2,5-dimethoxy-tetrahydrofuran-3-carbaldehyde (1 g, 6.25 mmol), and the solution was stirred for 20 minutes at 90° C. Water and ethyl acetate were added to the reaction solution, which was then partitioned, the organic layer was washed with an aqueous solution 2N sodium hydroxide once and with water twice, filtered with a glass filter lined with silica gel, the filtrate was evaporated in vacuo, and title compound (800 mg, 4.3 mmol, 68.8%) was obtained as a brown oil.

reactant | Benzylamine | 5.00 mmol, 540 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | 2,5-dimethoxy-tetrahydrofuran-3-carbaldehyde | 6.25 mmol, 1 g | COC1OC(CC1C=O)OC | C7H12O4
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-1H-pyrrole-3-carbaldehyde | 4.3 mmol, 800 mg, 68.8% | C(C1=CC=CC=C1)N1C=C(C=C1)C=O | C12H11NO
